US04467037
N-methyl-N-t-butyldimethylsilylacetamide
To a vigorously stirred solution of 73.1 g (1.0 mole) N-methylacetamide dissolved in 1400 ml of dry triethylamine was added 196 g (1.30 mole) of t-butyldimethylsilyl chloride. The flask was purged with dry nitrogen and then equipped with a drying tube. Hard stirring of the mixture was continued for 24 hours at room temperature. Then, under a layer of dry air, the reaction mixture was filtered to remove the precipitate of triethylamine hydrochloride. The resulting filter cake was then washed three times with 150 ml each of dry triethylamine. The filtrate and washings were combined and reduced in volume by distillation at 35 degrees C. at 10 mm Hg. The remaining straw colored liquid was then fractionally distilled.

reactant | N-methylacetamide | 1.0 mole, 73.1 g | CNC(C)=O | C3H7NO
reactant | t-butyldimethylsilyl chloride | 1.30 mole, 196 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | triethylamine | 1400 ml | C(C)N(CC)CC | C6H15N
product | N-methyl-N-t-butyldimethylsilylacetamide | CN(C(C)=O)[Si](C)(C)C(C)(C)C | C9H21NOSi
